US07727983B2
(7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester
A solution of (S)-7-hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester (3.0 g, 8.5 mmol), resin-bound triphenylphosphine (17 mmol), [4-(3,4-dichloro-benzyloxy)-phenyl]-hydroxy-acetic acid 3,4-dichloro-benzyl ester (13.0 mmol) in DCM-THF (1-1, 80 mL) was cooled to 0° C. To this solution was added DIAD (13.0 mmol) and the mixture was agitated for 10 min at 0° C. and the mixture was slowly allowed to warm up to r.t. and agitated for 16 h. The reaction mixture was filtered, concentrated and the residue passed over a plug of silica-gel hexanes-ethyl acetate (9:1). The resulting residue was dissolved in glacial acetic acid (65 mL) and iron powder (170 mmol) added. The resulting mixture was heated at 100° C. for 1 h. The mixture was poured onto water and EtOAc. The organic layer was washed with water, brine, saturated sodium bicarbonate solution and dried over sodium sulfate. The solution was concentrated under reduced pressure to give the desired product. This crude product was purified by silica gel column chromatography using hexanes-ethyl acetate (7:3) to afford (7S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester (1.6 g). LC-MS (m/z) 614.

reactant | (S)-7-hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 8.5 mmol, 3.0 g | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)[N+](=O)[O-])O)C(=O)OC(C)(C)C | C16H20N2O7
reactant | triphenylphosphine | 17 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [4-(3,4-dichloro-benzyloxy)-phenyl]-hydroxy-acetic acid 3,4-dichloro-benzyl ester | 13.0 mmol | ClC=1C=C(COC(C(O)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)=O)C=CC1Cl | C22H16Cl4O4
reactant | DIAD | 13.0 mmol | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM THF | 80 mL | C(Cl)Cl.C1CCOC1
catalyst | iron | 170 mmol | [Fe] | Fe
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3OC(C(NC3=CC2C[C@H]1C(=O)O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C30H28Cl2N2O7
